US05126361
A solution of 447 mg (1 mmol) of 5-trimethylsilylethynyl-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl) imidazole-4-carbonitrile in a 1N hydrochloric acid-methanol (10 ml: 5 ml) solvent mixture was heated under reflux at 100° C. for 4 hours. After the reaction, the reaction solution was neutralized with 1N sodium hydroxide solution, silica gel powder was added, and the solvent was evaporated. The residue was adsorbed onto a silica gel column (2.7×13 cm), eluted with a 0-8% ethanol-chloroform solvent mixture, and crystallized from water-containing methanol to obtain 112 mg of pale yellow crystals of 5-ethynylimidazole-4-carbonitrile (yield: 95.7%).

reactant | 5-trimethylsilylethynyl-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl) imidazole-4-carbonitrile | 1 mmol, 447 mg | C[Si](C)(C)C#CC1=C(N=CN1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C#N | C20H25N3O7Si
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | hydrochloric acid methanol | 1N, 10 ml | Cl.CO
product | 5-ethynylimidazole-4-carbonitrile | yield: 95.7% | C(#C)C1=C(N=CN1)C#N | C6H3N3
